* Z:\home\ulf\simulations\TransmissionLineReflections.asc
T1 source 0 discont1 N002 Td=6.7n Z0=50
T2 discont1 N002 discont2 N003 Td=0.067n Z0=1
T3 discont2 N003 load N004 Td=1.3n Z0=50
R1 load N004 100k
V1 N001 0 PULSE(0 1 1n 1n) Rser=50
R2 source N001 0.01
R3 N004 0 10Meg
R4 N003 0 10Meg
R5 N002 0 10Meg
.tran 50n
.backanno
.end
